US07557114B2
(a) 2-Benzyl-5-(5,6-dihydro-[1,4]dioxin-2-yl)-2,3-Dihydro-1H-isoindole
Prepared in analogy to Example A49(a) from 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole (Example A62(a)) and tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane. Light brown solid. MS (m/e): 294.4 ([M+H]+, 100%).

reactant | 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)Br | C15H14BrN
reactant | tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane | C(CCC)[Sn](C=1OCCOC1)(CCCC)CCCC
product | 2-Benzyl-5-(5,6-dihydro-[1,4]dioxin-2-yl)-2,3-Dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1OCCOC1 | C19H19NO2
